US05595958
15 g of 4-chloro pyridine hydrochloride were placed into 90 ml of diethyl ether in a 500 ml beaker equipped with a magnetic stirrer. 4.0 g of sodium hydroxide in 90 ml of water were added at 0° C. and the mixture stirred for 15 minutes. The diethyl ether layer was separated, washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The 10.3 g of the 4-chloropyridine produced were placed into a 3-necked flask and dissolved in 100 ml of ethylene glycol dimethyl ether (DME). After cooling to -70° C., 62 ml of 1.5M solution of lithium diisopropyl amide (LDA) in cyclohexane were added over a period of 30 minutes while maintaining the temperature below -60° C. Upon completion of the addition, the reaction mixture was stirred an additional hour at -70° C. To this cooled mixture were then added 10.7 g of 2-thiophenecarboxaldehyde. The reaction mixture was stirred in a dry-ice bath for 2 hours and then left at room temperature overnight. 100 ml of saturated ammonium chloride solution were added to the reaction mixture, and the mixture was stirred for 15 minutes at room temperature. The mixture was then extracted twice with ethyl ether. The combined ether extracts were then washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the crude product as a semi-solid. Trituration with hexane then afforded crystals which were isolated through filtration. 14.5 g of 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)methanol were obtained.

reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-thiophenecarboxaldehyde | 10.7 g | S1C(=CC=C1)C=O | C5H4OS
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | hexane | CCCCCC | C6H14
solvent | ethylene glycol dimethyl ether | 100 ml | COCCOC | C4H10O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)methanol | 14.5 g | ClC1=C(C=NC=C1)C(O)C=1SC=CC1 | C10H8ClNOS
